Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
elective admission for chemotherapy
 
Major Surgical or Invasive Procedure:
___ line placement

 
History of Present Illness:
___ year old female w/ recently diagnosed synovial sarcoma of R
shoulder who is admitted for chemo-radiation. In short, pt
developed worsening pain of R shoulder while undergoing ___ after
suffering a fall. Eventually also had swelling and husband
noticed a mass like area leading her to have it further
evaluated.  Biopsy was most c/w synovial sarcoma. Pet last week
showed in addn to the mass some enlarged axillary LN. 
Plan is for several weeks of XRT w/ radiosensitizing Adriamycin
and eventual resection.  
SHe initiated XRT today. reports that she has nearly constant
pain all around the shoulder, wakes her from sleep. she does get
relief from oxycodone but lately needing to use 2 tabs at least
twice to 3 times per day. Has chronic constipation, unchanged,
has small BM most days. Denies any fever/chills or weight loss.
Denies and numbness of L arm, able to grip. has some swelling of
upper arm and into forearm. 

REVIEW OF SYSTEMS:
GENERAL: No fever, chills, night sweats, recent weight changes. 
HEENT: No mouth sores, odynophagia, sinus tenderness, 
rhinorrhea,
or congestion. 
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations. 
PULM: No cough, shortness of breath, hemoptysis, or wheezing. 
GI: No nausea, vomiting, diarrhea, constipation or abdominal
pain. No hematochezia, or melena. 
GU: No dysuria, hematuruia or frequency. 
MSK: as above
DERM: Denies rashes, itching, or skin breakdown. 
NEURO: No headache, visual changes, numbness, paresthesias, 
focal
weakness, or neurologic symptoms. 
HEME: No bleeding or clotting
 
Past Medical History:
PAST ONCOLOGIC HISTORY: per OMR
She notes issues with her left shoulder started about a year ago
when she had a mechanical fall (slipped on gravel) from standing
that led to a proximal humerus fracture. This was treated
non-operatively, and she had been doing well rehabilitating it
almost completely until earlier this year when she noted
increased swelling and pain in ___. She had been continuing
physical therapy, but the swelling and pain progressed.
Ultrasound on ___ showed a large ill-defined masslike
structure in the left shoulder/upper arm without evidence of 
deep
vein thrombosis. She then underwent MRI of the left shoulder on
___ that showed a heterogeneously enhancing soft tissue mass
measuring 11.9 x 10.7 x 9.8 cm seen circumferentially around the
left humeral head, neck, and proximal shaft. There was extension
of mass into the axilla and multiple surrounding muscles. There
was associated abnormal marrow signal in the proximal humerus.

She underwent ultrasound-guided core-needle biopsy on ___.
Final pathology is pending, but preliminary discussion with
Pathology indicates this to be most likely a synovial sarcoma vs
malignant peripheral nerve sheath tumor. Bone scan on ___
showed trace uptake in the left humeral head without other
abnormality. CT Chest on the same date showed several
non-specific lung nodules all measuring less than ___s
increased number and size of left axillary lymph nodes.

She had a screening mammogram last week that showed a 3 mm left
breast lesion.

She met with Dr. ___ in ___ on ___ and
had a discussion regarding the likelihood of needing a combined
modality approach to treatment involving radiation, 
chemotherapy,
and surgery. She met with Dr. ___ in Radiation ___
with plan to have markers placed.  

PET-CT on ___ showed 
IMPRESSION: 1. Large hyperdense mass surrounding the humeral 
head
and proximal  humerus with SUV max of 19.8. 2. Multiple enlarged
left axillary lymph nodes with SUV max of 3.9. 3. Multiple
enlarged left supraclavicular lymph nodes with 
no significant radiotracer activity. 4. No evidence of distant
metastatic  disease. 5. 3 mm right middle lobe lung nodule with
no appreciable radiotracer  activity. 

PAST MEDICAL HISTORY:
-Suspected soft tissue sarcoma as above.
-Hyperlipidemia.
-Arthritis.
-Left humerus fracture ___.
-s/p Left total hip replacement ___ ___.
-s/p Right ACL repair ___.
-s/p C-sections x2 in ___ and ___.

 
Social History:
___
Family History:
FAMILY HISTORY:
Mother - Lung cancer (smoker), stroke, hypertension, depression,
alcohol abuse.
Father - Lung cancer (smoker), hypertension, gout.

 
Physical Exam:
DISCHARGE EXAM:
VITAL SIGNS: ___ 110/60 60 97% RA 170.9 lbs
HEENT:  MMM, no OP lesions 
Neck: supple
CV:  RR, NL S1S2 no S3S4 or MRG
PULM:  CTAB nonlabored
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXT:  warm well perfused, no ___ edema, protruding mass over L
anterior shoulder extending over deltoid, L bicep region and
proximal forearm. LUE swelling much improved as well as ROM 
today
SKIN:  No rashes or skin breakdown
NEURO:  grossly wnl 
 
Pertinent Results:
DISCHARGE LABS:

___ 04:35AM BLOOD WBC-11.1* RBC-3.43* Hgb-10.3* Hct-32.1* 
MCV-94 MCH-30.0 MCHC-32.1 RDW-12.9 RDWSD-43.1 Plt ___
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-114* UreaN-14 Creat-0.4 Na-140 
K-4.0 Cl-104 HCO3-25 AnGap-15
___ 04:35AM BLOOD ALT-7 AST-6 LD(LDH)-176 AlkPhos-92 
TotBili-0.2
___ 04:35AM BLOOD Albumin-3.2* Calcium-9.1 Phos-4.0 Mg-2.0

IMAGING:

___ ULTRASOUND:
There is normal flow with respiratory variation in the bilateral 
subclavian vein. The left internal jugular and axillary veins 
are patent, show normal color flow and compressibility. The left 
brachial, basilic, and cephalic veins are patent, compressible 
and show normal color flow. Re- demonstration of the left 
shoulder sarcoma measures 5.3 x 9.2 x 9.7 cm.

IMPRESSION:  
No evidence of deep vein thrombosis in the left upper extremity. 
Known left shoulder sarcoma. 

___
PORT PLACED 
Successful placement of a double lumen chest power Port-a-cath 
via the right
internal jugular venous approach. The tip of the catheter 
terminates in the
right atrium. The catheter is ready for use.

 
Brief Hospital Course:
___ w/ new dx of sarcoma of L shoulder admitted for chemo/XRT.

# Sarcoma, MPNS 
Her sarcoma is localized to her left shoulder. She was admitted 
for her first week of concurrent neoadjuvant chemotherapy (low 
dose Doxorubicin) and preoperative external radiation therapy to 
facilitate limb-sparing approach/resection. Initiated XRT and 
chemo on ___ C1D1 Doxorubicin for radiosensitization. She 
will be on this regimen M-F. She was not discharged over the 
first weekend for pain control. She is now tolerating C2 and 
pain is much improved.

- PICC for chemo placed on admission, removed
- port placed ___ uneventfully
- due for ___
- t/b Dr. ___ Dr. ___ with updates

# L shoulder pain
This pain is due to sarcoma infiltration of tissues/joint space. 
She had increased swelling of her arm and US was neg for DVT. 
The swelling and pain improved with chemo/XRT, as well as dex, 
her ___ oil, lidocaine patch, and capsaicin cream. At the time 
of discharge, she was still using ___ mg of  prn oxycodone in 
addition to q8 oxycontin. Since she is improving and will be 
going home for two days before returning, it is best to see how 
she does over the weekend and if when she returns on ___, she 
is still requiring significant amount of PRN, will increase her 
oxycontin. 

- cont oxycontin 20 mg TID
- cont oxycodone ___ q4 prn
- bid c/s (moved bowels daily)
- cont ___ oil she uses from home
- cont lidocaine patch and capsaicin cream prn
- per ortho, no lifting/pushing/pulling > 5 pounds
- cont OT for maintaining/improving ROM

# Leukocytosis 
She had mild leukocytosis most likely reactive to the IV 
dexamethasone she received during chemotherapy. SHe had no e/o 
infection, clear UA, and no skin breakdown. 

BOWEL REGIMEN: senna/Colace/miralax. 
FEN: Regular diet
DVT PROPHYLAXIS:SQ enoxaparin while inpatient
ACCESS:  double lumen chest power Port-a-cath via RIJ placed 
___
CODE STATUS: Full code
DISPO: Home
BILLING: >30 min spent coordinating care for discharge
____________________
___, D.O.
Heme/Onc Hospitalist
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Prochlorperazine 10 mg PO Q6H:PRN nausea 
3. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
4. Docusate Sodium 100 mg PO BID 
5. Senna 8.6 mg PO BID 
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
7. Naproxen 500 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
2. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
RX *oxycodone [OxyContin] 20 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*42 Tablet Refills:*0
3. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
RX *lidocaine [Lidoderm] 5 % apply 2 patches daily Disp #*60 
Patch Refills:*0
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hrs prn pain Disp 
#*140 Tablet Refills:*0
5. Docusate Sodium 200 mg PO BID 
6. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. Senna 17.2 mg PO BID 
10. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
11. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
12. Naproxen 500 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sarcoma
L arm pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

It was a pleasure caring for you during your stay at ___. You 
were admitted for initiation of adriamycin and chemotherapy and 
radiation.You tolerated this well. You will need to return to 11 
Reismann in the morning on ___ for your third cycle of 
Doxorubicin. 

Please continue taking your pain regimen as instructed. Keep a 
log of how often you are needing your oxycodone (short-acting). 
If you continue to require more than 20 mg per day, we can 
discuss on ___ when you return whether we need to increase 
the long-acting oxycontin. If you have any issues which need 
immediate attention, please call your oncologist. 

As instructed by your orthopedic surgeon, no 
lifting/pushing/pulling > 5 pounds with your left arm. Please 
continue the treatments recommended to you by the occupational 
therapist. 
 
Followup Instructions:
___